US07485634B2
6-Fluoro-3-(2-nitropropenyl)-1H-indole was prepared by combining 6-fluoroindole-3-carboxaldehyde (485 mg, 2.97 mmol), nitroethane (6.0 mL), and ammonium acetate (250 mg, 3.27 mmol). The reaction solution was allowed to reflux 2 hours. The reaction solution was diluted with EtOAc (100 mL), washed with H2O (50 mL×2), partitioned, dried over Na2SO4, filtered, and concentrated under reduced pressure to provide 560 mg (86% yield) of 6-fluoro-3-(2-nitropropenyl)-1H-indole; 1H NMR (CDCl3) δ 11.03 (1H, br s), 8.41 (1H, s), 7.63 (1H, dd), 7.50 (1H, s), 7.06 (1H, dd), 6.92 (1H, t), 2.44 (3H, s); TLC (SiO2 plate, 100% DCM) Rf=0.7.

reactant | 6-fluoroindole-3-carboxaldehyde | 2.97 mmol, 485 mg | FC1=CC=C2C(=CNC2=C1)C=O | C9H6FNO
reactant | nitroethane | 6.0 mL | [N+](=O)([O-])CC | C2H5NO2
reactant | ammonium acetate | 3.27 mmol, 250 mg | C(C)(=O)[O-].[NH4+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 6-fluoro-3-(2-nitropropenyl)-1H-indole | 560 mg, 86% yield | FC1=CC=C2C(=CNC2=C1)C=C(C)[N+](=O)[O-] | C11H9FN2O2
